US04822787
To a solution of (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-methanesulfonyloxypyrrolidine (100 g) and ethyl bromoacetate (100 ml) in tetrahydrofuran (500 ml) was added a solution of potassium t-butoxide (100 g) in tetrahydrofuran (500 ml) in a nitrogen stream at -15°~-10° C. for 2 hours and the mixture was stirred at ambient temperature for 3 hours. To the reaction mixture was added 2N aqueous sodium hydroxide (500 ml) at 0°-10° C. and the mixture was stirred at ambient temperature for 18 hours. The organic solvent was evaporated under reduced pressure to give an aqueous solution. To the aqueous solution was added water (500 ml), adjusted to pH 10 with 4N aqueous sodium hydroxide and washed with ethyl acetate (500 ml×2). The aqueous solution was adjusted to pH 4 with concentrated hydrochloric acid and extracted with ethyl acetate (300 ml×2). The organic layer was washed with brine (300 ml), dried over magnesium sulfate and concentrated under reduced pressure to give (2S,4R)-1-benzyloxycarbonyl-2-(carboxymethyloxymethyl)-4-methanesulfonyloxypyrrolidine (94.0 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-hydroxymethyl-4-methanesulfonyloxypyrrolidine | 100 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CO | C14H19NO6S
reactant | ethyl bromoacetate | 100 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium t-butoxide | 100 g | CC(C)([O-])C.[K+]
reactant | sodium hydroxide | 2N, 500 ml | [OH-].[Na+]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | (2S,4R)-1-benzyloxycarbonyl-2-(carboxymethyloxymethyl)-4-methanesulfonyloxypyrrolidine | 94.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(=O)O | C16H21NO8S
